US06900215B2
2-(5-Bromo-2-fluorophenyl)nicotinonitrile (214 mg, 0.8 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.1 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from toluene, gave 2-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]nicotinonitrile as a yellow solid: δH (400 MHz, CDCl3) 8.95 (1H, dd, J 5 and 2), 8.91 (1H, d, J 7), 8.17 (1H, dd, J 8 and 2), 8.13 (1H, s), 7.80 (1H, dd, J 7 and 2), 7.69-7.73 (1H, m), 7.46-7.55 (2H, m), 7.29 (1H, d, J 7); m/z (ES+) 383 (M++H).

reactant | 2-(5-Bromo-2-fluorophenyl)nicotinonitrile | 0.8 mmol, 214 mg | BrC=1C=CC(=C(C1)C1=C(C#N)C=CC=N1)F | C12H6BrFN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.1 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 2-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]nicotinonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=C(C#N)C=CC=N2 | C19H9F4N5
